data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:10]1[N+:15](=[CH:3][CH:52]=[CH:11][c:42]2[cH:4][cH:19][cH:2][cH:20][cH:5]2)[CH:14]([CH2:53][c:47]2[cH:54][cH:12][cH:21][cH:13][cH:55]2)[C:29](=[O:6])[N:48]1[CH3:22])([CH3:44])([CH3:45])[CH3:46].[c:7]1([P:43]([c:8]2[cH:24][cH:31][c:50]([N:17]([CH3:38])[CH3:39])[cH:32][cH:25]2)[c:9]2[cH:26][cH:33][c:51]([N:18]([CH3:40])[CH3:41])[cH:34][cH:27]2)[cH:23][cH:30][c:49]([N:16]([CH3:36])[CH3:37])[cH:35][cH:28]1>>[C:1]([CH:10]1[N:15]([CH:3]=[CH:52][CH:11]([c:42]2[cH:4][cH:19][cH:2][cH:20][cH:5]2)[P+:43]([c:7]2[cH:23][cH:30][c:49]([N:16]([CH3:36])[CH3:37])[cH:35][cH:28]2)([c:8]2[cH:24][cH:31][c:50]([N:17]([CH3:38])[CH3:39])[cH:32][cH:25]2)[c:9]2[cH:26][cH:33][c:51]([N:18]([CH3:40])[CH3:41])[cH:34][cH:27]2)[CH:14]([CH2:53][c:47]2[cH:54][cH:12][cH:21][cH:13][cH:55]2)[C:29](=[O:6])[N:48]1[CH3:22])([CH3:44])([CH3:45])[CH3:46]", "epd": [["LP-/Sigma+", [43], [11, 43]], ["Pi-/Pi+", [11, 52], [3, 52]], ["Pi-/LP+", [3, 15], [15]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:1][CH2:19][O:26][C:8](=[O:4])[C-:10]([F:7])[C:9](=[O:3])[O:27][CH2:20][CH3:2].[cH:5]1[cH:15][cH:6][c:11]2[c:16]([o+:12][c:14](-[c:24]3[cH:21][cH:17][cH:25][cH:18][cH:22]3)[cH:13][cH:23]2)[cH:28]1>>[CH3:1][CH2:19][O:26][C:8](=[O:4])[C:10]([F:7])([C:9](=[O:3])[O:27][CH2:20][CH3:2])[CH:23]1[c:11]2[cH:6][cH:15][cH:5][cH:28][c:16]2[O:12][C:14]([c:24]2[cH:21][cH:17][cH:25][cH:18][cH:22]2)=[CH:13]1", "epd": [["LP-/Sigma+", [10], [10, 23]], ["Pi-/Pi+", [23, 13], [13, 14]], ["Pi-/LP+", [14, 12], [12]]]}
{"reaction_name": "β-Hydroxysilane elimination", "rsmi": "[CH:1]([OH:3])([CH2:7][Si:2]([CH3:4])([CH3:5])[CH3:6])[CH3:8]>>[CH:1](=[CH2:7])[CH3:8].[Si:2]([OH:3])([CH3:4])([CH3:5])[CH3:6]", "epd": [["Sigma-/Sigma+", [1, 3], [2, 3]], ["Sigma-/Pi+", [2, 7], [1, 7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:16]([n:4][o:22][n+:21]1[O-:3])[n:15][c:12]([O:19][CH3:13])[n:6][cH:20]2.[cH:2]1[cH:9][cH:7][c:17]2[c:5]([cH:23]1)[CH:24]([Zn-:14]([Cl:10])[Cl:11])[CH:18]=[CH:8]2>>[Cl:10][Zn:14][Cl:11].[c:1]12[c:16]([n:4][o:22][n+:21]1[O-:3])[N:15]=[C:12]([O:19][CH3:13])[N-:6][CH:20]2[CH:24]1[c:5]2[c:17]([cH:7][cH:9][cH:2][cH:23]2)[CH:8]=[CH:18]1", "epd": [["Sigma-/Sigma+", [24, 14], [24, 20]], ["Pi-/LP+", [20, 6], [6]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:24][CH3:23])[c:25]1[cH:14][cH:12][cH:3][cH:13][cH:15]1.[cH:2]1[cH:9][cH:4][c:18]([C:11](=[C:6]2[N:7]([CH3:21])[C:16]([CH3:20])=[C:26]([CH3:22])[S:17]2)[O:19][CH3:8])[cH:5][cH:10]1>>[CH:1]([C:11]([c:6]1[n+:7]([CH3:21])[c:16]([CH3:20])[c:26]([CH3:22])[s:17]1)([c:18]1[cH:4][cH:9][cH:2][cH:10][cH:5]1)[O:19][CH3:8])([O:24][CH3:23])[c:25]1[cH:14][cH:12][cH:3][cH:13][cH:15]1", "epd": [["LP-/Pi+", [7], [6, 7]], ["Pi-/Sigma+", [11, 6], [11, 1]], ["Pi-/LP+", [1, 24], [24]]]}
{"reaction_name": "Oxocarbenium carbon capture", "rsmi": "[C-:6]#[N:8].[O:1]1[CH2:2][CH2:3][CH2:7][CH2:4][CH+:5]1>>[O:1]1[CH2:2][CH2:3][CH2:7][CH2:4][CH:5]1[C:6]#[N:8]", "epd": [["LP-/Sigma+", [6], [5, 6]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[CH:1]1=[CH:8][c:9]2[cH:18][cH:17][cH:31][cH:10][c:21]2[CH:32]1[Na:24].[cH:2]1[cH:11][cH:15][cH:14][cH:5][c:25]1[P:7](=[O:19])([c:26]1[cH:3][cH:12][cH:16][cH:13][cH:4]1)[N:27]=[CH:6][c:20]1[cH:29][cH:22][cH:28][cH:23][cH:30]1>>[CH:1]1=[CH:8][c:9]2[cH:18][cH:17][cH:31][cH:10][c:21]2[CH:32]1[CH:6]([c:20]1[cH:29][cH:22][cH:28][cH:23][cH:30]1)[N:27]=[P:7]([O-:19])([c:25]1[cH:2][cH:11][cH:15][cH:14][cH:5]1)[c:26]1[cH:3][cH:12][cH:16][cH:13][cH:4]1.[Na+:24]", "epd": [["Sigma-/Sigma+", [32, 24], [32, 6]], ["Pi-/Pi+", [6, 27], [27, 7]], ["Pi-/LP+", [7, 19], [19]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:4][cH:13][c:10]([N+:7](=[CH2:9])[CH3:20])[cH:14][cH:5]1.[cH:2]1[c:15]2[cH:12][cH:19][c:17]([S-:6])[cH:11][c:18]2[cH:8][cH:3][cH:16]1>>[cH:1]1[cH:4][cH:13][c:10]([N:7]([CH2:9][S:6][c:17]2[cH:11][c:18]3[cH:8][cH:3][cH:16][cH:2][c:15]3[cH:12][cH:19]2)[CH3:20])[cH:14][cH:5]1", "epd": [["LP-/Sigma+", [6], [6, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Anomeric substitution", "rsmi": "[CH2:1]1[CH2:2][CH2:5][O:3][CH:4]([Cl:9])[CH2:8]1.[N-:6]=[N+:10]=[N-:7]>>[CH2:1]1[CH2:2][CH2:5][O:3][CH:4]([N:6]=[N+:10]=[N-:7])[CH2:8]1.[Cl-:9]", "epd": [["LP-/Sigma+", [6], [4, 6]], ["Sigma-/LP+", [4, 9], [9]]]}
{"reaction_name": "Sulfone reduction", "rsmi": "[H:2][H:3].[H:4][H:5].[S:1](=[O:6])(=[O:7])([CH3:8])[CH3:9]>>[H:2][O:6][H:3].[H:4][O:7][H:5].[S:1]([CH3:8])[CH3:9]", "epd": [["Sigma-/Sigma+", [2, 3], [2, 6]], ["Sigma-/LP+", [1, 6], [1]], ["Pi-/LP+", [1, 6], [6]], ["LP-/Sigma+", [6], [3, 6]], ["Sigma-/LP+", [1, 7], [1]], ["Pi-/LP+", [1, 7], [7]], ["Sigma-/Sigma+", [4, 5], [4, 7]], ["LP-/Sigma+", [7], [5, 7]]]}
